US06127386
182b. 6-Chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine hydrochloride
To a solution of 6-chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 200-202° C.; 1H NMR (D2O) δ 2.03-2.17 (m, 2H), 2.24 (m, 1H), 2.39 (m, 1H), 3.05 (s, 3H), 3.13 (m, 1H), 3.75 (m, 1H), 3.96 (m, 1H), 4.41 (dd, 1H, J=6.0, 11.0 Hz), 4.58 (dd, 1H, J=3.0, 11.0 Hz), 7.67 (d, 1H, J=3.0 Hz), 8.25 (d, 1H, J=3.0 Hz), 9.00 (s, 2H), 9.22 (s, 1H); MS (CI/NH3) m/z 306 (M+H)+. Anal. Calcd for C15H17ClN4O.1.4 HCl: C, 50.63; H, 5.21; N, 15.75. Found: C, 50.66; H, 4.94; N, 15.40. [α]25D -8.16 (c 8.7, MeOH).

reactant | 6-chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine | ClC1=C(C=C(C=N1)OC[C@H]1N(CCC1)C)C=1C=NC=NC1 | C15H17ClN4O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 6-Chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine hydrochloride | Cl.ClC1=C(C=C(C=N1)OC[C@H]1N(CCC1)C)C=1C=NC=NC1 | InChI=1S/C15H17ClN4O.ClH/c1-20-4-2-3-12(20)9-21-13-5-14(15(16)19-8-13)11-6-17-10-18-7-11;/h5-8,10,12H,2-4,9H2,1H3;1H/t12-;/m0./s1
